US05354755
Preparation of 1-(3,4-Dihydro-4-oxo-3-quinazolinyl)-3-{p-[(trifluoromethyl)sulfinyl]phenyl}urea
A mixture of 1-(3,4-dihydro-4-oxo-3-quinazolinyl)-3-{p-[(trifluoromethyl)thio]phenyl}urea (1.0 g, 2.63 mmol) in chloroform is cooled with an ice-water bath, treated with a solution of 3-chloroperoxybenzoic acid (0.57 g, 80% real, 2.64 mmol) in chloroform, stirred for 3 hours at 0° C., stirred for 32 hours at room temperature, cooled to 0° C., treated with additional 3-chloroperoxybenzoic acid (0.114 g, 0.53 mmol) in chloroform, stirred for 36 hours at room temperature, diluted with dichloromethane, washed sequentially with saturated sodium sulfite solution, saturated sodium hydrogen carbonate solution and brine, dried over anhydrous MgSO4 and concentrated in vacuo to obtain a yellow solid. Chromatography of the solid using silica gel and a 4:1 ethyl acetate/hexanes solution gives the title product as a white solid, 0.50 g, mp 148°-150° C., which is identified by 1HNMR spectral analysis.

reactant | 1-(3,4-dihydro-4-oxo-3-quinazolinyl)-3-{p-[(trifluoromethyl)thio]phenyl}urea | 2.63 mmol, 1.0 g | O=C1N(C=NC2=CC=CC=C12)NC(=O)NC1=CC=C(C=C1)SC(F)(F)F | C16H11F3N4O2S
reactant | 3-chloroperoxybenzoic acid | 2.64 mmol, 0.57 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | 3-chloroperoxybenzoic acid | 0.53 mmol, 0.114 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(3,4-Dihydro-4-oxo-3-quinazolinyl)-3-{p-[(trifluoromethyl)sulfinyl]phenyl}urea | O=C1N(C=NC2=CC=CC=C12)NC(=O)NC1=CC=C(C=C1)S(=O)C(F)(F)F | C16H11F3N4O3S
